US04639451
6-[4-(2-acetylthiopropanoylamino)-phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone
To 20 ml of N,N-dimethylformamide were added 0.54 g of thioacetic acid, 0.98 g of anhydrous potassium carbonate and then 2.0 g of 6-[4-(α-bromopropionylamino)-phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone, and the mixture was reacted for 2 hours at room temperature. The mixture was further reacted for 1 hour after the addition of 2 ml of water. Insoluble matters were removed from the mixture by filtration and the filtrate was concentrated under reduced pressure to obtain a crude end product which was then purified by column chromatography on silica gel (solvent: benzene, acetic acid and methanol in a ratio of 10:3:0.6) whereby 1.8 g of the purified end product was obtained. Amorphous powder. IR-absorption spectra (KBr tablets, cm-1): 3275, 1680, 1540, 1350, 1040 and 840.

reactant | thioacetic acid | 0.54 g | C(C)(=S)O | C2H4OS
reactant | potassium carbonate | 0.98 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-[4-(α-bromopropionylamino)-phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 2.0 g | BrC(C(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C)C | C14H16BrN3O2
reactant | KBr | [K+].[Br-]
solvent | water | 2 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 6-[4-(2-acetylthiopropanoylamino)-phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | C(C)(=O)SC(C(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C)C | C16H19N3O3S
